US07932246B2
2-(6-{(Naphthalene-2-sulfonyl)-[2-(2oxo-pyrrolidin-1-yl)ethyl]amino}-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrimidine-5-carboxylic acid
To a solution of ethyl 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate (0.749 g, 1.4 mmol) in EtOH (8 ml) was added sodium ethoxide (1.08 g, 15.8 mmol) and hydroxylamine hydrochloride (1.30 g, 18.7 mmol). The mixture was stirred at 40° C. for 18 h, then water (20 ml) was added. The product was extracted with DCM (2×100 ml), and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The expected hydroxamate product was in fact proved not to have formed. The reaction yielded instead the acid. Purification by reverse phase HPLC yielded the title compound (232 mg, 32%). This was used directly in the next step without characterisation.

reactant | ethyl 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylate | 1.4 mmol, 0.749 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N(C1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC)CCN1C(CCC1)=O | C28H31N5O5S
reactant | sodium ethoxide | 15.8 mmol, 1.08 g | [O-]CC.[Na+]
reactant | hydroxylamine hydrochloride | 18.7 mmol, 1.30 g | Cl.NO
reactant | water | 20 ml | O | H2O
solvent | EtOH | 8 ml | CCO | C2H6O
product | 2-(6-{(Naphthalene-2-sulfonyl)-[2-(2oxo-pyrrolidin-1-yl)ethyl]amino}-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrimidine-5-carboxylic acid | 232 mg, 32% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N(C1C2CN(CC12)C1=NC=C(C=N1)C(=O)O)CCN1C(CCC1)=O | C26H27N5O5S
